US09340556B2
To a yellow solution of 1-ethyl-8-fluoro-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy)quinolin-4(1H)-one (10 g, 20.26 mmol) in Dichloromethane (DCM) (100 mL) was added manganese dioxide (17.62 g, 203 mmol), and the mixture was stirred at 25° C. for 6.5 h. LCMS indicated completion of the reaction. The solid was filtered off through Celite and washed with DCM, the filtrate was concentrated to afford 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde (6.5 g, 13.22 mmol, 65.3% yield) as a yellow solid that was used in the next step without further purification. LCMS (M+H)+: 492.2.

reactant | 1-ethyl-8-fluoro-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy)quinolin-4(1H)-one | 20.26 mmol, 10 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)CO | C28H28FNO6
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 203 mmol, 17.62 g | [O-2].[O-2].[Mn+4]
product | 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 13.22 mmol, 6.5 g, 65.3% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C=O | C28H26FNO6
